US08066970B2
b) Preparation of N,N′-Diallyl-5-amino-2,4,6-triiodo-isophthalamide
To a solution of 5-Amino-2,4,6-triiodo-isophthaloyl dichloride in dichloromethane was added allylamine (4 equivalents) under a nitrogen atmosphere at ambient temperature. The reaction was stirred for 18 hours. This yielded a precipitate which was found to be the desired product. 1H NMR (DMSOd6) 8.62 (2H, t, j 4.5 Hz), 5.90 (2H, m), 5.46 (2H, br s), 5.37 (2H, d, j 9 Hz), 5.14 (2H, d, 6 Hz), 3.84 (4H, t, 3 Hz). 13C (DMSOd6) 169.6, 149.0, 147.4, 116.0, 79.7, 41.5.

reactant | 5-Amino-2,4,6-triiodo-isophthaloyl dichloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | allylamine | 4 equivalents | C(C=C)N | C3H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N′-Diallyl-5-amino-2,4,6-triiodo-isophthalamide | C(C=C)NC(C1=C(C(C(=O)NCC=C)=C(C(=C1I)N)I)I)=O | C14H14I3N3O2
